US04859661
To a suspension of 5.0 g of 4-hydroxycumene in 14 ml of water was added dropwise 4.0 ml of 70% nitric acid while cooling with ice and the temperature of mixture was raised to room temperature and the reaction was carried out for 40 minutes. After 500 ml of water was added thereto, the reaction mixture was extracted with 500 ml of ethyl acetate, washed with water and a brine successively, and dried with anhydrous sodium sulfate. The drying agent was filtered off and the solvent was distilled away under reduced pressure. The residue was purified by subjecting silica-gel column-chromatography [eluent: ethyl acetate]to give 5.07 g of 4-isopropyl-2-nitrophenol.

reactant | 4-hydroxycumene | 5.0 g | OC1=CC=C(C=C1)C(C)C | C9H12O
reactant | nitric acid | 4.0 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 14 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 4-isopropyl-2-nitrophenol | 5.07 g | C(C)(C)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C9H11NO3
